US07795249B2
Step 5: 5-[2-{[(tert-butoxycarbonyl)amino]methyl}-4-(dimethylamino)phenyl]thiophene-2-carboxylic acid
A solution of tert tert-butyl (2-bromo-5-methoxybenzyl)carbamate (0.226 g, 0.69 mmol), 5-(dihydroxyboryl)thiophene-2-carboxylic acid (0.118 g, 0.69 mmol) and cesium carbonate (0.492 g, 1.51 mmol) in DMF (2 mL) and water (1 mL) was degassed. To this solution was added PdCl2dppf (1:1 complex with DCM, 0.020 g, 0.03 mmol). The reaction mixture was heated at 100° C. for 36 hr and then allowed to cool to rt and concentrated. The residue was suspended in acetonitrile (15 mL) and MeOH (2 mL) containing 0.1% TFA and adsorbed onto celite and purified by reverse phase chromatography to give a mixture of the desired product and remaining starting material. This mixture was suspended in half-saturated sodium bicarbonate solution (10 mL) and washed with EtOAc (20 mL). The organic solution was extracted with half-saturated sodium bicarbonate solution until no product was apparent in the organic solution. The pH of the aqueous solution was adjusted to 5 with 1N HCl and then was extracted with EtOAc. The organic solutions were combined, washed with brine, dried over Na2SO4, filtered and concentrated to give 5-[2-{[(tert-butoxycarbonyl)amino]methyl}-4-(dimethylamino)phenyl]thiophene-2-carboxylic acid (0.036 g, 13%) as a yellow oil. LCMS: (AA) ES+ 377.2, ES-375.3.

reactant | tert-butyl (2-bromo-5-methoxybenzyl)carbamate | 0.69 mmol, 0.226 g | BrC1=C(CNC(OC(C)(C)C)=O)C=C(C=C1)OC | C13H18BrNO3
reactant | 5-(dihydroxyboryl)thiophene-2-carboxylic acid | 0.69 mmol, 0.118 g | OB(C1=CC=C(S1)C(=O)O)O | C5H5BO4S
reactant | cesium carbonate | 1.51 mmol, 0.492 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | 1 mL | O | H2O
product | 5-[2-{[(tert-butoxycarbonyl)amino]methyl}-4-(dimethylamino)phenyl]thiophene-2-carboxylic acid | C(C)(C)(C)OC(=O)NCC1=C(C=CC(=C1)N(C)C)C1=CC=C(S1)C(=O)O | C19H24N2O4S
